US06342498B1
To a chilled solution (0° C.) of 4-[(2-amino)ethyl]-1-(2-methoxyphenyl)piperazine (10.46 mmol) in 40 mL of dichloromethane were added pyridine (12.55 mmol) and a solution of 3-bromopropionyl chloride (11.51 mmol) in 10 mL of dichloromethane. After addition, the reaction mixture was warmed to room temperature, and stirred for 1 hour. The reaction mixture was quenched with saturated sodium carbonate, extracted with dichloromethane. The organic phase was washed with brine, water, and dried over magnesium sulfate Filtration and evaporation of the solvents gave a residue that was purified by flash chromatography using 3-5% of methanol and 0.5% of ammonium hydroxide in ethyl acetate to give 4-[2-(3′-bromo)propionamido)ethyl]-1-(2-methoxyphenyl)piperazine (2.16 g, 56%).

reactant | 4-[(2-amino)ethyl]-1-(2-methoxyphenyl)piperazine | 10.46 mmol | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
reactant | pyridine | 12.55 mmol | N1=CC=CC=C1 | C5H5N
reactant | 3-bromopropionyl chloride | 11.51 mmol | BrCCC(=O)Cl | C3H4BrClO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(2-methoxyphenyl)piperazine | 2.16 g, 56% | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
